US06169107A
The reaction was carried out in a manner similar to Reference Example 5 except for using 2.0 g (11.4 mmol) of methyl 2-indolecarboxylate, 0.55 g (13.7 mmol) of 60% sodium hydroxide, 3.63 g (13.7 mmol) of 2-(2-iodo-ethoxy)tetrahydropyran (prepared from 2-iodoethanol and 3,4-dihydro-2H-pyran) and 50 ml of dimethylformamide. Thus, 2.87 g (83.0%) of methyl 1-[2-(2-tetrahydro-pyranyl)oxyethyl]-2-indolecarboxylate was obtained.

reactant | methyl 2-indolecarboxylate | 11.4 mmol, 2.0 g | N1C(=CC2=CC=CC=C12)C(=O)OC | C10H9NO2
reactant | sodium hydroxide | 13.7 mmol, 0.55 g | [OH-].[Na+]
reactant | 2-(2-iodo-ethoxy)tetrahydropyran | 13.7 mmol, 3.63 g | ICCOC1OCCCC1 | C7H13IO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 1-[2-(2-tetrahydro-pyranyl)oxyethyl]-2-indolecarboxylate | 2.87 g, 83.0% | O1C(CCCC1)OCCN1C(=CC2=CC=CC=C12)C(=O)OC | C17H21NO4
